US05292749
(R)-3-Quinuclidinyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate
A mixture of methyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate (see Preparation 17) (0.37 g), (R)-3-quinuclidinol (0.24 g) sodium hydride (15 mg, as an 80% dispersion in oil) in toluene (15 ml) as refluxed with continuous removal of distillate and, when necessary, replacement with fresh toluene, for 11/2 hours. The cooled mixture was successively washed with water then saturated brine and extracted with 2M hydrochloric acid. The aqueous layer was washed with ethyl acetate, basified with potassium carbonate and extracted with ethyl acetate. The organic layer was dried over magnesium sulphate and evaporated to give the title compound (0.31 g, 61%) as a yellow oil

reactant | methyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate | 0.37 g | C1(=CC=CC=C1)C(C(=O)OC)CCN1N=CC=C1 | C14H16N2O2
reactant | (R)-3-quinuclidinol | 0.24 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-3-Quinuclidinyl (RS)-2-phenyl-4-(1H-pyrazol-1-yl)butanoate | 0.31 g, 61% | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)CCN2N=CC=C2 | C20H25N3O2
